US04357342
Anhydrous chromium trioxide (CrO3) (1.94 g, 19.4 mmol) is added to a solution of anhydrous pyridine (3.07 g, 38.8 mmole) in anhydrous methylene chloride (CH2Cl2) (50 ml). The resulting mixture is stirred at room temperature for 15 mins. A solution of N-(t-butyldimethylsilyl)-4-(2-hydroxyethyl)-azetidin-2-one (0.74 g, 3.23 mmol) in anhydrous CH2Cl2 (5 ml) is added all at once. After stirring at room temperature for 5 mins, the mixture is decanted and the dark, gummy residue is washed with more CH2Cl2. The combined CH2Cl2 supernatant is evaporated i.v. The residue is taken up in diethylether and filtered to remove chromium salts. The ethereal filtrate is washed with 5% NaHCO3, 5% HCl, 5% NaHCO3 and brine, dried with MgSO4, filtered, and evaporated i.v. to yield N-(t-butyldimethylsilyl)-4-(2-oxoethyl)-azetidin-2-one (0.54 g) as an off-white solid: ir(CHCl3) 5.77, 5.80, 7.36, 7.60, 7.99, 8.50 and 11.95 cm-1 ; nmr (CDCl3) δ0.23(s, 3), 0.27 (s, 3), 0.98 (s, 9), 2.63 (ddd, 1), 2.65 (dd, 1), 3.07 (ddd, 1), 3.37 (dd), 3.97 (m, 1), and 9.78 (t, 1); mass spectrum m/e 170 and 128.

reactant | pyridine | 38.8 mmole, 3.07 g | N1=CC=CC=C1 | C5H5N
reactant | N-(t-butyldimethylsilyl)-4-(2-hydroxyethyl)-azetidin-2-one | 3.23 mmol, 0.74 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CCO)=O | C11H23NO2Si
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 19.4 mmol, 1.94 g | [O-2].[O-2].[O-2].[Cr+6]
product | N-(t-butyldimethylsilyl)-4-(2-oxoethyl)-azetidin-2-one | 0.54 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC=O)=O | C11H21NO2Si
